US04146721
4.0 grams 3,3-diacetyl-propionic acid, 4.9 grams p-chlorophenylhydrazine-sulfate, 2.1 grams anhydrous sodium acetate and 30 milliliters glacial acetic acid were mixed and the mixture was heated to 60° C. for 3 hours. The reaction mixture was evaporated and water was added to the residue. The precipitate formed thereby was separated by filtration and recrystallized from a mixture of ethanol and of water. 5.5 grams 3,5-dimethyl-1-(p-chlorophenyl)-pyrazol-4-acetic acid, melting at 176°-177° C., were obtained, representing a yield of 82%.

reactant | 3,3-diacetyl-propionic acid | 4.0 grams | C(C)(=O)C(CC(=O)O)C(C)=O | C7H10O4
reactant | p-chlorophenylhydrazine-sulfate | 4.9 grams | C1=CC(=CC=C1NN)Cl.OS(=O)(=O)O
reactant | sodium acetate | 2.1 grams | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 30 milliliters | C(C)(=O)O | C2H4O2
product | 3,5-dimethyl-1-(p-chlorophenyl)-pyrazol-4-acetic acid | 5.5 grams, yield of 82% | CC1=NN(C(=C1CC(=O)O)C)C1=CC=C(C=C1)Cl | C13H13ClN2O2
